US09126993B2
quinuclidin-3-yl3′-methoxybiphenyl-3-ylcarbamate
Using general procedure E, quinuclidin-3-yl3-bromophenylcarbamate, 3-methoxyphenylboronic acid and [PdCl2(pddf)]CH2Cl2 gave the title compound as a white solid (100 mg, 71%). 1H NMR (500 MHz, CDCl3) δ 7.63 (br s, 1H), 7.40-7.27 (m, 4H), 7.17 (d, J=8.0 Hz, 1H), 7.11 (m, 1H), 7.07 (br s, 1H), 6.89 (dd, J=8.0, 2.0 Hz, 1H), 4.85 (m, 1H), 3.85 (s, 3H), 3.30 (m, 1H), 2.99-2.70 (m, 5H), 2.12 (m, 1H), 1.92-1.84 (m, 1H), 1.75-1.68 (m, 1H), 1.62-1.55 (m, 1H), 1.48-1.40 (m, 1H) ppm. 13C NMR (125 MHz, CDCl3) δ 159.9, 153.4, 142.3, 142.1, 138.4, 129.8, 129.4, 122.3, 119.7, 117.7, 112.9, 112.8, 72.0, 55.4, 55.3, 47.4, 46.5, 25.4, 24.5, 19.5 ppm. Purity: >97% LCMS (214 nm & 254 nm); retention time 1.52 min; (M+1) 353

reactant | quinuclidin-3-yl3-bromophenylcarbamate | N12CC(C(CC1)CC2)OC(NC2=CC(=CC=C2)Br)=O | C14H17BrN2O2
reactant | 3-methoxyphenylboronic acid | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | quinuclidin-3-yl3′-methoxybiphenyl-3-ylcarbamate | 100 mg, 71% | N12CC(C(CC1)CC2)OC(NC=2C=C(C=CC2)C2=CC(=CC=C2)OC)=O | C21H24N2O3
